US05958646
Using 24.7 g (0.1 mol) of pentafluorobenzene-sulfonamide, 1.2 g (0.01 mol) of 4-(N,N-dimethylamino)pyridine, 22.3 g (0.22 mol) of triethylamine, 13.5 g (0.12 mol) of methacryloyl chloride, and 100 ml of dimethylformamide, reaction was conducted in the same manner as in Synthesis Example 1. As a result, 19.5 g of N-(pentafluorobenzene-sulfonyl)methacrylamide was obtained (yield, 61.9%; light-yellow crystals; m.p., 133-133.5° C.).

reactant | pentafluorobenzene-sulfonamide | 0.1 mol, 24.7 g | FC1=C(C(=C(C(=C1S(=O)(=O)N)F)F)F)F | C6H2F5NO2S
reactant | triethylamine | 0.22 mol, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.12 mol, 13.5 g | C(C(=C)C)(=O)Cl | C4H5ClO
catalyst | 4-(N,N-dimethylamino)pyridine | 0.01 mol, 1.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(pentafluorobenzene-sulfonyl)methacrylamide | 19.5 g | FC1=C(C(=C(C(=C1S(=O)(=O)NC(C(=C)C)=O)F)F)F)F | C10H6F5NO3S
